US05272163
To stirred 90° C. polyphosphoric acid (150 g) was added 18.32 g (15.0 mmol) of benzoic acid and 8.33 g (7.5 mmol) of 3-fluoroaniline and the bath temperature raised to 220° C. and held there for 1 hour. A solution was obtained at about 130° C. The heating bath was removed and the stirred mixture (sublimate above the solution) was treated cautiously with 60 mL of water. The mixture was stirred at 140°-155° C. for 1 hour, the heating bath removed, 50 mL of 3N HCl added, the mixture poured into 750 mL of water and filtered through a pad of Celite. The filtrate was basified with 15% sodium hydroxide and the resulting solid collected. The 1.88 g of solid was chromatographed on silica gel (methylene chloride) to yield 1.15 g (7%) of white fluffy 4-amino-2-fluorobenzophenone, mp 133°-5° C. 1H NMR (250 MHz, CDCl3): 4.20 (s, 2H, NH2) 6.33-6.50 (m, 2H, aromatic) 7.27-7.55 (m, 4H, aromatic) 7.76-7.79 (m, 2H, aromatic). MS (CI, CH4): 216 (M+1).

reactant | benzoic acid | 15.0 mmol, 18.32 g | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | 3-fluoroaniline | 7.5 mmol, 8.33 g | FC=1C=C(N)C=CC1 | C6H6FN
product | 4-amino-2-fluorobenzophenone | 1.15 g, 7% | NC1=CC(=C(C(=O)C2=CC=CC=C2)C=C1)F | C13H10FNO
